US07541372B2
N-{3-Methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl ]-phenyl}-formamide
A mixture of 3-methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]-oxadiazol-2-yl]-phenylamine (200 mg, 0.57 mmol) and formic acid (2.1 mL, 55.6 mmol) was stirred at 90° C. for 2 h. After concentration purification of the residue by chromatography (SiO2, heptane:ethyl acetate:methanol=50:50:0 to 0:95:5) afforded the title compound (21 mg, 10%) as a yellow solid. MS: m/e=377.3 [M+H]+.

reactant | 3-methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]-oxadiazol-2-yl]-phenylamine | 0.57 mmol, 200 mg | COC=1C=C(C=CC1C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)N | C19H16N4O3
reactant | formic acid | 55.6 mmol, 2.1 mL | C(=O)O | CH2O2
product | N-{3-Methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl ]-phenyl}-formamide | 21 mg, 10% | COC=1C=C(C=CC1C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)NC=O | C20H16N4O4
